US04191777
(+)-N-(1-Methyl-2-phenyl-2-hydroxyethyl)-maleic acid monoamide (abbreviation: (+)-NEMA)
32.6 grams of maleic anhydride were dissolved in 600 ml of toluene and there were dropped into this solution under stirring a 50° C. warm solution of 50.0 grams of (+)-norephedrine in 100 ml of toluene. Then stirring was continued for 30 more minutes at this temperature. The product was allowed to cool, filtered off with suction, dried and recrystallized from ethyl acetate. Yield: 63.5 grams=77.0% of theory. M.P. 154°-156°

reactant | maleic anhydride | 32.6 grams | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | (+)-norephedrine | 50.0 grams | C[C@H]([C@H](C1=CC=CC=C1)O)N | C9H13NO
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (+)-N-(1-Methyl-2-phenyl-2-hydroxyethyl)-maleic acid monoamide | CC(C(O)C1=CC=CC=C1)NC(\C=C/C(=O)O)=O | C13H15NO4
